US07141561B2
1-(4-Benzyloxyphenyl)-1-(2,2-dimethoxyethyl)-3-[4-(2-dimethylaminoethoxy)phenyl]urea
Carbonyldiimidazole (2.7 g) was added to a solution of 4-(2-dimethylaminoethoxy)phenylamine (3.01 g) in dimethylformamide (40 mL) cooled in ice. After 30 minutes, (4-benzyloxyphenyl)-(2,2-dimethoxyethyl)amine (4.8 g) was added, and the mixture was heated at 80° C. for 30 minutes. After cooling, volatiles were removed and the residue was purified by MPLC (eluent: heptane/ethyl acetate 9:1). The product with the molecular weight of 493.61 (C28H35N3O5); MS (ESI): 494 ([M+H]+), was obtained in this way.

reactant | Carbonyldiimidazole | 2.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(2-dimethylaminoethoxy)phenylamine | 3.01 g | CN(CCOC1=CC=C(C=C1)N)C | C10H16N2O
reactant | (4-benzyloxyphenyl)-(2,2-dimethoxyethyl)amine | 4.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NCC(OC)OC | C17H21NO3
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1-(4-Benzyloxyphenyl)-1-(2,2-dimethoxyethyl)-3-[4-(2-dimethylaminoethoxy)phenyl]urea | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C(=O)NC1=CC=C(C=C1)OCCN(C)C)CC(OC)OC | C28H35N3O5
